US09359359B2
Step 2 1-(3-((tert-butyldimethysilyl)oxy)propyl)-7-(4-chlorobenzyl)-8-(1-hydroxyethyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (0.052 g, 0.10 mmoL) was dissolved in ethanol (2 mL) and 6N aqueous HCl (0.5 mL) was added. The clear solution was stirred at room temperature for 1 h. The reaction was diluted with water (25 mL) and extracted with DCM (3×25 mL). The combined organic extracts were dried with magnesium sulfate, filtered and the solvent removed under reduced pressure to a golden oil. The oil was purified using a 2000 micron preparative TLC plate eluted with 50% ethyl acetate/hexanes. Target band was extracted with ethyl acetate and the solvent was removed under reduced pressure to give 7-(4-chlorobenzyl)-8-(1-hydroxyethyl)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (0.012 g, 29% yield) as a clear oil. LCMS retention time=2.429 min and 96% purity, LCMS MH+ 393. 1H NMR (CDCl3) δ 7.25 (dd, 4H, J=8 Hz and 64 Hz), 5.65 (dd, J=12 Hz and 40 Hz), 4.91-4.97 (m, 1H), 4.19 (t, 2H, J=4 Hz), 3.61 (s, 3H), 3.51-3.55 (m, 2H), 2.52 (d, 1H, J=4 Hz), 1.87-1.93 (m, 2H), 1.57 (d, 3H, J=4 Hz).

reactant | 1-(3-((tert-butyldimethysilyl)oxy)propyl)-7-(4-chlorobenzyl)-8-(1-hydroxyethyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.052 g | [Si](C)(C)(C(C)(C)C)OCCCN1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)C(C)O)C)=O | C24H35ClN4O4Si
reactant | HCl | 6N, 0.5 mL | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
product | 7-(4-chlorobenzyl)-8-(1-hydroxyethyl)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.012 g, 29% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCO)=O)C)C(C)O)C=C1 | C18H21ClN4O4
